US09169254B2
Ethyl isocyanatoacetate (581 mg, 4.50 mmol) and N,N-diisopropylethylamine (426 mg, 1.65 mmol) were added to a solution of 4-bromo-2,6-dimethylaniline (600 mg, 3.00 mmol) in toluene (6 ml) with stirring in a nitrogen stream, and the mixture was heated with stirring at 120° C. After 30 minutes, the reaction solution was brought to room temperature, and the precipitate was collected by filtration, washed with toluene and then dried under reduced pressure. The resulting solid was suspended in toluene (6 ml). DBU (68.4 mg, 2.25 mmol) was added and the mixture was heated with stirring at 120° C. After 30 minutes, the reaction solution was brought to room temperature and diluted with ethyl acetate, and the organic layer was washed with a 1 N aqueous hydrochloric acid solution and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the magnesium sulfate was then removed by filtration. The filtrate was concentrated under reduced pressure. The residue was subjected to column chromatography (hexane-ethyl acetate) to give 3-(4-bromo-2,6-dimethyl-phenyl)-imidazolidine-2,4-dione (570 mg, 67%).

reactant | Ethyl isocyanatoacetate | 4.50 mmol, 581 mg | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | N,N-diisopropylethylamine | 1.65 mmol, 426 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-2,6-dimethylaniline | 3.00 mmol, 600 mg | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | DBU | 2.25 mmol, 68.4 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-bromo-2,6-dimethyl-phenyl)-imidazolidine-2,4-dione | 570 mg, 67% | BrC1=CC(=C(C(=C1)C)N1C(NCC1=O)=O)C | C11H11BrN2O2
